### PR TITLE
preimage10 turned into an equivalence

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

just observing the `preimage10` can be an equivalence

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -1291,8 +1291,11 @@ Lemma preimage0 {T R} {f : T -> R} {A : set R} :
   A `&` range f `<=` set0 -> f @^-1` A = set0.
 Proof. by rewrite -subset0 => + x /= Afx => /(_ (f x))[]; split. Qed.
 
-Lemma preimage10 {T R} {f : T -> R} {x} : ~ range f x -> f @^-1` [set x] = set0.
-Proof. by move=> fx; rewrite preimage0// => y [->]. Qed.
+Lemma preimage10 {T R} {f : T -> R} {x} : ~ range f x <-> f @^-1` [set x] = set0.
+Proof.
+split => [fx|]; first by rewrite preimage0// => ? [->].
+by apply: contraPnot => -[t _ <-] /seteqP[+ _] => /(_ t) /=.
+Qed.
```
Comment (CohenCyril) [inline theories/classical_sets.v:1298]: I'd have a second lemma with name `preimage10P` for this one.

**Review by CohenCyril — APPROVED** [review]
LGTM
